US07125901B2
N-(4-{2-[4-(2-Amino-2-iminoethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide hydrochloride (67 mg) was dissolved in water (1 ml) and CH3CN (1 ml). The solution was made basic (pH=8) with saturated NaHCO3, and concentrated in vacuo. The residue was purified by preparative NH silica gel chromatography with CH3CN/water (7:3) as an eluent to give N-(4-{2-[4-(2-amino-2-iminoethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (26 mg) as an off-white amorphous substance.

reactant | N-(4-{2-[4-(2-Amino-2-iminoethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide hydrochloride | 67 mg | Cl.NC(CC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O)=N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 1 ml | O | H2O
solvent | CH3CN | 1 ml | CC#N | C2H3N
product | N-(4-{2-[4-(2-amino-2-iminoethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 26 mg | NC(CC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O)=N | C15H18N4OS
